Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Shortness of breath
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ G2P1 now POD 9 from pLTCS, presented to ED with cough,
SOB, orthopnea, CP, and increased pedal edema.  Per pt, sx have
been worsening since day of discharge (___).  Home BP was
158/79.  Pt went to nearest ED (___) where BP's were
140s-160/70s-100s, O2 wnl.  At ___, she was started on a
nitroglycerin drip and given 40mg Lasix with resultant 1000cc
UOP.  Transfer was arranged to ___.

ED course at ___ was notable for cardiology eval.  CXR showed
pulmonary edema, EKG wnl per report, bedside echo showed:
mild-mod MR, nl systolic function, no effusion.  She received 2 
separate 2gm boluses of magnesium in the ED. The nitroglycerin 
drip was discontinued.

Prenatal course was uncomplicated, underwent scheduled primary
LTCS on ___ for hx myomectomy.  Operative report not available,
per pt no intraop or postop complications.  Lochia is minimal, 
no
abd pain or foul vaginal odor.  Breastfeeding, slight
engorgement. No f/c/n/v/dysuria.  Reports mild HA, no visual
changes or RUQ pain.  Now denies CP and reports SOB much
improved.

 
Past Medical History:
OB History:
- SAB with D&C
- pLTCS for hx mmy. ___, 6#11

GYN History : denies abnl pap/STI. hx fibroids.

Medical History: denies

Surgical History:
- myomectomy
- c-section

 
Social History:
Denies tobacco/ethanol/drugs
 
Physical Exam:
99.3  80  149/79  92%RA -> 96% on 2L NC
No acute distress
Regular rate and rhythm, moderate JVD
Clear to auscultation bilaterally in upper lung fields, 
decreased at bases with bilateral crackles to mid-lung.
Abd soft nontender, fundus low, no right upper quadrant 
tenderness to palpation
Ext non tender, non edematous 

 
Pertinent Results:
___ 07:59PM BLOOD WBC-6.1 RBC-2.96* Hgb-8.8* Hct-27.6* 
MCV-94 MCH-29.7 MCHC-31.8 RDW-13.8 Plt ___
___ 11:50AM BLOOD WBC-6.4 RBC-2.97* Hgb-9.0* Hct-27.6* 
MCV-93 MCH-30.1 MCHC-32.4 RDW-13.8 Plt ___
___ 04:32AM BLOOD WBC-7.2 RBC-2.92* Hgb-8.8* Hct-27.3* 
MCV-93 MCH-30.0 MCHC-32.1 RDW-13.6 Plt ___
___ 08:45PM BLOOD WBC-6.3 RBC-3.11* Hgb-9.5* Hct-29.1* 
MCV-94 MCH-30.4 MCHC-32.5 RDW-13.5 Plt ___
___ 07:59PM BLOOD Glucose-101* UreaN-18 Creat-0.9 Na-141 
K-4.1 Cl-109* HCO3-23 AnGap-13
___ 11:50AM BLOOD Glucose-118* UreaN-17 Creat-0.9 Na-142 
K-3.7 Cl-110* HCO3-24 AnGap-12
___ 04:32AM BLOOD Glucose-102* UreaN-15 Creat-0.9 Na-141 
K-3.7 Cl-110* HCO3-22 AnGap-13
___ 08:45PM BLOOD Glucose-92 UreaN-15 Creat-0.8 Na-143 
K-4.0 Cl-110* HCO3-22 AnGap-15
___ 04:32AM BLOOD ALT-43* AST-22
___ 08:45PM BLOOD ALT-43* AST-23 AlkPhos-108* TotBili-0.3

Echocardiogram ___: The left atrium is elongated. No atrial 
septal defect is seen by 2D or color Doppler. The estimated 
right atrial pressure is ___ mmHg. Left ventricular wall 
thickness, cavity size, and global systolic function are normal 
(LVEF>55%). Due to suboptimal technical quality, a focal wall 
motion abnormality cannot be fully excluded. There is no 
ventricular septal defect. Right ventricular chamber size and 
free wall motion are normal. The diameters of aorta at the 
sinus, ascending and arch levels are normal. The aortic valve 
leaflets (3) appear structurally normal with good leaflet 
excursion and no aortic stenosis or aortic regurgitation. The 
mitral valve leaflets are structurally normal. Mild to moderate 
(___) mitral regurgitation is seen (no clear structural 
abnormality of the valve but images are poor quality). There is 
mild pulmonary artery systolic hypertension. There is a 
trivial/physiologic pericardial effusion. There are no 
echocardiographic signs of tamponade.
 
Brief Hospital Course:
Ms. ___ was transferred from the ED to the Labor and 
Delivery for further management. There was no evidence of 
preeclampsia on labwork. Given improvement in oxygen requirement 
after receiving lasix, she received IV lasix. She was 
successfully weaned to room air by hospital day #2. Cardiology 
continued to follow the patient and recommended net negative 
fluid status. She was initially started on labetalol 100 BID, 
which was slowly titrated up to 400 BID to control her BPs with 
a goal of 130/80. Her blood pressures remained well controlled 
on this regimen. She had a formal ECHO on ___ that was 
grossly normal. She remained in the hospital for 3 days and 
continued to improve symptomatically.  Her pulmonary edema was 
thought to be secondary to fluid overload in the setting of 
normal cardiac function. She was discharged home in good 
condition on hospital day 3 with follow-up. 
 
Discharge Medications:
1. ibuprofen 600 mg Tablet Sig: One (1) Tablet PO Q6H (every 6 
hours) as needed for pain.  
2. oxazepam 10 mg Capsule Sig: One (1) Capsule PO Q8H (every 8 
hours) as needed for neck pain.
Disp:*15 Capsule(s)* Refills:*0*
3. labetalol 200 mg Tablet Sig: Two (2) Tablet PO TID (3 times a 
day).
Disp:*180 Tablet(s)* Refills:*2*
4. hydrochlorothiazide 12.5 mg Tablet Sig: One (1) Tablet PO 
DAILY (Daily).
Disp:*30 Tablet(s)* Refills:*2*
5. acetaminophen-codeine 300-30 mg Tablet Sig: ___ Tablets PO 
Q4H (every 4 hours) as needed for pain.
Disp:*30 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
pulmonary edema
gestational hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
see instruction sheet
call for elevated BP > 160/110
call for persistent headache, not improving with motrin
 
Followup Instructions:
___